data/pmechdb/original/mc_train_fold0/raw/train.txt
CCO[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[N+:20](=O)=[O:21]>>CCO[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][C:21]1([CH+:22]C(=CO1)C(=O)C)Br.[Br-:10]>>[H:20][Br:10].CC(=O)C1=CO[C:21](=[CH:22]1)Br 10=20;20,21=21,22
[CH2:10]=[C:11](CC1(COCC(=C1)Cl)[CH:20]=[O:21])[O:12][Na].CO>>[CH2:10]1[CH:20](C2(C[C:11]1=[O+:12][Na])COCC(=C2)Cl)[O-:21].CO 10,11=10,20;20,21=21;12=11
CO[C:20](=[O:21])C1=C(C=CC=C1)C(C2=CC=CC=C2)[O-:10].C1CCOC1.C1=CC=C(C=C1)[Mg]Br.[Mg+]Br>>CO[C:20]1(C2=C(C=CC=C2)C([O:10]1)C3=CC=CC=C3)[O-:21].C1CCOC1.C1=CC=C(C=C1)[Mg]Br.[Mg+]Br 10=20;20,21=21
CC(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>CC(C)[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[Br:20].[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21;12,13=11,12
CC(C)[CH:10](C)[OH2+:11]>>C[CH+:10]C(C)C.[OH2:11] 10,11=11
CN1CCO[C:20]1([O-:10])[Cl:21]>>CN1CCO[C:20]1=[O:10].[Cl-:21] 10=20;20,21=21
C[C:20]([OH2+:21])(SC)[S:10]C>>C[C:20](=[S+:10]C)SC.[OH2:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(C)[O-:10]>>[H:20][O:10]C(C)NCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC(C)C1CCC2=C[C:11](=[C:10](CCC12C)[CH2:20][N+:21](C)(C)C)[O-:12].C1CCC2=[NH+]CCCN2CC1.[I-]>>CC(C)C1CCC2=C[C:11](=[O:12])[C:10](=[CH2:20])CCC12C.C[N:21](C)C.C1CCC2=[NH+]CCCN2CC1.[I-] 10,11=10,20;12=11;20,21=21
[H:20][Cl:21].CO[P:10](OC)Cl>>[H:20][P+:10](OC)(OC)Cl.[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC(=C(C=C1)O)C(=O)O.COC1=C2C3=C(CC4C5C3(CC[NH2+]4)C(O2)C(=[O:10])CC5)C=C1.CO.COC=[O+]C>>[H:20][O+:10]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CC[NH2+]3.C1=CC(=C(C=C1S(=O)(=O)[O-:21])C(=O)O)O.CO.COC=[O+]C 10=20;20,21=21
[H:20][O+:21](C)[Si-](C)(C)(C)OS(=O)(=O)C.C[OH:10]>>[H:20][OH+:10]C.C[O:21][Si-](C)(C)(C)OS(=O)(=O)C 10=20;20,21=21
C[CH:20]([CH-:10]C#N)[OH:21]>>C[CH:20]=[CH:10]C#N.[OH-:21] 10=20;20,21=21
CC1(CC[CH+:20][C:11]1(C)[CH3:10])C>>[CH3:10][CH:20]1CCC([C+:11]1C)(C)C 10,11=10,20
[H:20][C:21]1(CCC[C:22]1=[O:23])C(C)O.CC[O-:10]>>[H:20][O:10]CC.CC([C:21]1=[C:22](CCC1)[O-:23])O 10=20;22,23=23;20,21=21,22
C1C[C:20]2(C(C1=O)[Br+:21]2)COCC3=CC=CC=C3.[Br-:10].C1=CC=[NH+]C=C1>>C1C[C:20](C(C1=O)[Br:21])(COCC2=CC=CC=C2)[Br:10].C1=CC=[NH+]C=C1 10=20;20,21=21
[H:10][BH3-:11].CC12CCC(=O)C=C1CCC3C2CCC4(C3CC[C:20]4=[O:21])C>>[H:10][C:20]1(CCC2C1(CCC3C2CCC4=CC(=O)CCC34C)C)[O-:21].[BH3:11] 10,11=10,20;20,21=21
CN[CH:20]([NH:10]C)[OH+:21]C.[Cl-]>>CN[CH:20]=[NH+:10]C.C[OH:21].[Cl-] 10=20;20,21=21
[B-:10]1(OC2=C(O1)C=CC=C2)(C3=C([O+](N=C3C4=CC=CC=C4)C)CCCC)[Cl:11]>>[B:10]1(OC2=C(O1)C=CC=C2)C3=C([O+](N=C3C4=CC=CC=C4)C)CCCC.[Cl-:11] 10,11=11
CC[C:11](=[CH:10]C)[OH:12].C[N+:21](=[CH2:20])C>>CC[C:11](=[OH+:12])[CH:10](C)[CH2:20][N:21](C)C 10,11=10,20;20,21=21;12=11
C[Si:20](C)(C)OS(=O)(=O)C.[Br-:10]>>C[Si-:20](C)(C)(OS(=O)(=O)C)[Br:10] 10=20,
C1=CC=C2C=CC=C[C:11]2=[CH:10]1.O[S+:20](=O)=O>>C1=CC2=CC=C[CH:10]([C+:11]2C=C1)[S:20](=O)(=O)O 10,11=10,20
[H:20][C:21]1(C=C(C=C[C+:22]1OC(=O)CC)Br)Br.[Br-:10]>>[H:20][Br:10].CCC(=O)O[C:22]1=[C:21](C=C(C=C1)Br)Br 10=20;20,21=21,22
C=CC[NH:10][CH:20](C(CCC1=CC=CC=C1)O)[OH2+:21].B(C=CC1=CC=CC=C1)(O)O.C=CCN>>C=CC[NH+:10]=[CH:20]C(CCC1=CC=CC=C1)O.[OH2:21].B(C=CC1=CC=CC=C1)(O)O.C=CCN 10=20;20,21=21
[Li:11][CH2:10]CCC.C1=CC=C(C=C1)[C:21](=[S:20])C2=CC=CC=C2>>[Li+:11].CCC[CH2:10][S:20][C-:21](C1=CC=CC=C1)C2=CC=CC=C2 10,11=10,20;20,21=21
CC(=O)O[C:20](=[OH+:21])C=C.[OH2:10]>>CC(=O)O[C:20](C=C)([OH2+:10])[OH:21] 10=20;20,21=21
CCC[C:20](=[O:21])OCCC.[OH-:10]>>CCC[C:20]([OH:10])([O-:21])OCCC 10=20;20,21=21
C1CC(=O)N(C1=O)[O:21][C:20](NC(CC2=CC=CC=C2)C(=O)[O-])([O-:10])OCC3C4=C(C=CC=C4)C5=CC=CC=C35>>C1CC(=O)N(C1=O)[O-:21].C1=CC=C(C=C1)CC(C(=O)[O-])N[C:20](=[O:10])OCC2C3=C(C=CC=C3)C4=CC=CC=C24 10=20;20,21=21
[H:20][CH2:21][CH2:22][S+:23](C)C.C[O-:10]>>C[S:23]C.[CH2:21]=[CH2:22].[H:20][O:10]C 10=20;22,23=23;20,21=21,22
C[C:11](=[O:10])[NH:12]C[C:20](=[O:21])OC(=O)C>>C[C:11]1=[NH+:12]C[C:20]([O:10]1)([O-:21])OC(=O)C 10,11=10,20;20,21=21;12=11
[CH3:10][Mg:11]Cl.[Mg]([P+:20](Cl)(Cl)Cl)Cl>>[CH3:10][P:20]([Mg]Cl)(Cl)(Cl)Cl.[Mg+:11]Cl 10,11=10,20
[H:20][C:21](C)(C)[CH:22](C)[Br:23].[OH-:10]>>[H:20][OH:10].C[CH:22]=[C:21](C)C.[Br-:23] 10=20;22,23=23;20,21=21,22
CC(=O)NC(CC1=C[CH:10]=[C:11](C=C1)[O-:12])C(=O)NC.[F:21][I:20].[B-](F)(F)(F)F.C1C[N+]2(CCN1CC2)CCl.OP(=O)(O)[O-]>>CC(=O)NC(CC1=C[CH:10]([C:11](=[O:12])C=C1)[I:20])C(=O)NC.[F-:21].[B-](F)(F)(F)F.C1C[N+]2(CCN1CC2)CCl.OP(=O)(O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][CH2:21][S+](C)OC1CC2C3C(C3(C)C)CC(C4(C2=O)C=C(C5C4(C1O)OC(=O)O5)C)C.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CC1CC2C(C2(C)C)C3CC(C(C45C1(C3=O)C=C(C4OC(=O)O5)C)O)O[S+](C)[CH2-:21] 10=20;20,21=21
CC1=C(C(CCC1)(C)C)C(C2=C(C(=C(C=C2)OC)C(C)C)OC)[OH:10].CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)[O-].C1=CC=NC=C1>>CC1=C(C(CCC1)(C)C)C(C2=C(C(=C(C=C2)OC)C(C)C)OC)[OH+:10][I:20]3(C4=C(C=CC=C4)C(=O)O3)(OC(=O)C)OC(=O)C.CC(=O)[O-].C1=CC=NC=C1 10=20,
CC1CC(=[O+:11][Si-:10]([O+]1[Ti-](Cl)(Cl)(Cl)Cl)(C)(C)C)C>>CC(CC(=[O:11])C)[O+]([Si:10](C)(C)C)[Ti-](Cl)(Cl)(Cl)Cl 10,11=11
